US04845100
A mixture consisting of 15.9 g of 6-[bis-(2-chloroethyl)aminocarbonyl]-3,4-dihydrocarbostyril, 5.5 g of aniline and 70 ml of methanol was refluxed for 15 hours. After cooled the reaction mixture, 3.06 g of sodium carbonate was added to the reaction mixture and the reaction mixture was further refluxed for 8 hours. The reaction mixture was cooled and crystals precipitated in the reaction mixture were collected by filtration, and recrystallized from isopropanol to obtain 6.3 g of 6-(4-phenyl-1-piperazinylcarbonyl)-3,4-dihydrocarbostyril. Colorless needle-like crystals. Melting point: 200°-201° C.

reactant | 6-[bis-(2-chloroethyl)aminocarbonyl]-3,4-dihydrocarbostyril | 15.9 g | ClCCN(C(=O)C=1C=C2CCC(NC2=CC1)=O)CCCl | C14H16Cl2N2O2
reactant | aniline | 5.5 g | NC1=CC=CC=C1 | C6H7N
reactant | sodium carbonate | 3.06 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | 70 ml | CO | CH4O
product | 6-(4-phenyl-1-piperazinylcarbonyl)-3,4-dihydrocarbostyril | 6.3 g | C1(=CC=CC=C1)N1CCN(CC1)C(=O)C=1C=C2CCC(NC2=CC1)=O | C20H21N3O2
